US09034900B2
Step 3: 5-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-3-fluoro-1-methylpyridin-2-one
3-Fluoro-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one (40 mg, 0.16 mmol), 2-bromo-1-(cyclopropylmethoxy)-4-methanesulfonylbenzene (49 mg, 0.16 mmol), and Pd(dppf)Cl2 (12 mg, 10%) in 1,4-dioxane (880 μL) and saturated bicarbonate solution (aq) (220 μL) were reacted, worked up, and purified in a manner similar to Example 117. The title compound (22 mg, 46%) was obtained as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ 0.31-0.42 (m, 2H) 0.53-0.63 (m, 2H) 1.17-1.34 (m, 1H) 3.20 (s, 3H) 3.58 (s, 3H) 3.95-4.06 (m, 2H) 7.24-7.33 (m, 1H) 7.72-7.79 (m, 1H) 7.80-7.87 (m, 1H) 7.84 (s, 1H) 7.88-7.93 (m, 1H) LCMS (M+H)+=351.

reactant | 3-Fluoro-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one | 0.16 mmol, 40 mg | FC=1C(N(C=C(C1)B1OC(C(O1)(C)C)(C)C)C)=O | C12H17BFNO3
reactant | 2-bromo-1-(cyclopropylmethoxy)-4-methanesulfonylbenzene | 0.16 mmol, 49 mg | BrC1=C(C=CC(=C1)S(=O)(=O)C)OCC1CC1 | C11H13BrO3S
solvent | 1,4-dioxane | 880 μL | O1CCOCC1 | C4H8O2
solvent | bicarbonate | 220 μL | C([O-])(O)=O
catalyst | Pd(dppf)Cl2 | 12 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-3-fluoro-1-methylpyridin-2-one | 22 mg, 46% | C1(CC1)COC1=C(C=C(C=C1)S(=O)(=O)C)C=1C=C(C(N(C1)C)=O)F | C17H18FNO4S
